Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Optiray 350
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with chief complaint of diarrhea.  last evening 
he ate "old shrimp" and sushi for dinner at a restaraunt and 
then overnight began having diarrhea with fecal urge 
incontinence. He has been having profuse diarrhea (more than 4 
episodes per hr) increasing throughout the day. He then had one 
episode of vomiting. He denies any fevers, chills, hematemesis, 
___, hematoschezia, abdominal pain.
.
Of note this patient has had 2 admissions in the last month at 
___ (refer to OMR notes for further details). He was however 
not placed on any antibiotics during that hospitalization.
.
ED: VSS, labs significant for Acute renal failure. Stool studies 
sent. IV hydration was initiated.
 
Past Medical History:
___ disease  
DM2 c/b neuropathy on neurontin  
diplopia x one year, horizontal, no clear etiology per patient, 
followed by ophtho  
HTN  
Migraines  
s/p MI ___ yrs ago  
s/p cataract surg bilat  
s/p laminectomy in ___  
 
Social History:
___
Family History:
Father with strokes, no seizures, no parkinsons, sons are
healthy

 
Physical Exam:
VS: 100.4, 108/57, 68, 20, 95%/RA
GEN: appears comfortable, notes reduced intensity/frequency of 
diarrhea
Pain: ___
HEENT: EOMI, dry MM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
Labs on admission:
___ 06:05PM   WBC-7.8 RBC-4.29* HGB-11.5* HCT-35.4* MCV-83 
MCH-26.8* MCHC-32.5 RDW-17.2*
___ 06:05PM   NEUTS-82.9* LYMPHS-10.9* MONOS-4.2 EOS-1.3 
BASOS-0.7
___ 06:05PM   PLT COUNT-298
___ 06:05PM   GLUCOSE-96 UREA N-41* CREAT-2.2* SODIUM-140 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-23 ANION GAP-21*
___ 06:05PM   ALT(SGPT)-10 AST(SGOT)-19 ALK PHOS-62 
AMYLASE-73 TOT BILI-0.3
___ 06:05PM   LIPASE-45
.
Microbiology:
___ 8:45 pm STOOL     CONSISTENCY: NOT APPLICABLE

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
                                   . 
      ___ CRYSTALS PRESENT. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative).

___ 9:15 am STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative).

Labs on discharge:
___ 07:05AM BLOOD WBC-4.1 RBC-3.85* Hgb-10.0* Hct-31.8* 
MCV-83 MCH-25.9* MCHC-31.3 RDW-17.9* Plt ___
___ 06:24AM BLOOD Neuts-62.4 ___ Monos-9.4 Eos-1.9 
Baso-0.4
___ 07:05AM BLOOD Glucose-103 UreaN-22* Creat-1.5* Na-144 
K-4.2 Cl-113* HCO3-23 AnGap-12
___ 07:05AM BLOOD Calcium-8.1* Phos-3.0 Mg-1.___ yo male with PMH of ___ disease, DM2 complicated by 
neuropathy on neurontin, HTN who presented with diarrhea either 
secondary to food borne illness from old shrimp salad or 
gastroenteritis and concomittant acute renal failure on chronic 
kidney disease.

Diarrhea:  The patient's stool studies were unremarkable other 
than displaying Charcot ___ crystals which are seen in 
parasitic infections or eosinophilic gastroenteritis. Of note, 
the patient did not have any evidence of peripheral 
eosinophilia.  These findings were discussed with the GI service 
who recommended to continue acute supportive management.  The 
patient's diarrhea was very significant and prolonged over 
several days for which he required continued hospitalization for 
IVF repletion in the setting of his recent acute renal failure 
and profuse continued diarrhea.  The patient's diarrhea 
eventually improved and his acute renal failure resolved and he 
was discharged home.  There was no evidence of c.difficile.
 
Medications on Admission:
1. Glipizide 5 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
2. Carbidopa-Levodopa ___ mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
3. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day: 
Start two days after discharge. .  
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Chlorthalidone 15 mg Tablet Sig: One (1) Tablet PO once a 
day: Take prior home dose only after your diarrhea has 
completely resolved.  
7. Atenolol 50 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. Multivitamin Tablet Sig: One (1) Tablet PO once a day.  
9. Gas-X 80 mg Tablet, Chewable Sig: One (1) Tablet, Chewable PO 
three times a day as needed for gas.  
10. Percocet ___ mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.  
11. Fish Oil Oral 
12. Vitamin D 400 unit Tablet Sig: One (1) Tablet PO once a day. 
 
13. Co Q-10 Oral 
14. Prevacid 15 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Medications:
1. Glipizide 5 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
2. Carbidopa-Levodopa ___ mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
3. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day: 
Start two days after discharge.  .  
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Chlorthalidone 15 mg Tablet Sig: One (1) Tablet PO once a 
day: Take prior home dose only after your diarrhea has 
completely resolved.  
7. Atenolol 50 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
9. Gas-X 80 mg Tablet, Chewable Sig: One (1) Tablet, Chewable PO 
three times a day as needed for gas.  
10. Percocet ___ mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.  
11. Fish Oil  Oral
12. Vitamin D 400 unit Tablet Sig: One (1) Tablet PO once a day. 
 
13. Co Q-10  Oral
14. Prevacid 15 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
15. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q4H (every 4 hours) as needed for SOB.  
16. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
17. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diarrhea, Food-borne illness versus gastroenteritis
Acute Renal Failure
Parkinsonism
Type 2 DM

 
Discharge Condition:
Vital Signs Stable

 
Discharge Instructions:
Return to the ED if having high fevers, decreased urine output, 
severe abdominal pain, bloody diarrhea, significantly worsening 
diarrhea, light-headedness.
 
Followup Instructions:
___